US07816522B2
(22c) [2-(3,4-dimethoxy-5-methoxymethylphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene]carbamic acid methyl ester
After dissolving 322 mg of [2-(3-hydroxymethyl-4,5-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene]carbamic acid methyl ester in 5 ml of dichloromethane, 364 mg of 1,8-bis(dimethylamino)naphthalene and 240 mg of Me3O+BF4 were added and the mixture was stirred at room temperature for 5 hours. Saturated aqueous sodium hydrogencarbonate was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, the desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (169 mg, isomeric mixture) as a light yellow solid.

reactant | [2-(3-hydroxymethyl-4,5-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene]carbamic acid methyl ester | 322 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC(=C(C(=C1)OC)OC)CO)SC)=O | C23H24N4O6S
reactant | 1,8-bis(dimethylamino)naphthalene | 364 mg | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | BF4 | F[B-](F)(F)F
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [2-(3,4-dimethoxy-5-methoxymethylphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene]carbamic acid methyl ester | 169 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC(=C(C(=C1)COC)OC)OC)SC)=O | C24H26N4O6S
